US05403842
8-(2-chloroethoxy)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (Intermediate XI)
A mixture of 7.52 g of 8-hydroxy-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (prepared as described in Da Re, P. et al., Ann. Chim., 1962, p.506 et seq.), 6.22 g of anhydrous potassium carbonate and 25.5 ml of 1-bromo-2-chloromethane in 70 ml of dimethylformamide was stirred at 60° C. for 25 hours. The mixture was cooled to 20°-25° C. and poured into 600 ml of water. The organic solution, obtained by extraction with dichloromethane, was washed with aqueous sodium chloride solution and dried on anhydrous sodium sulfate. The solvents and excess 1-bromo-2-chloromethane were evaporated off in vacuo to yield 8.8 g of the title compound, m.p. 141°-142° C. after crystallization from chloroform:hexane.

reactant | 8-hydroxy-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 7.52 g | OC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C16H12O3
reactant | potassium carbonate | 6.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 600 ml | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 8-(2-chloroethoxy)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 8.8 g | ClCCOC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C18H15ClO3
